US08119692B2
(S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-hydroxyhexanamide (Compound 167336)
To a solution of (2S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-(tetrahydro-2H-pyran-2-yloxy)hexanamide (43 mg, 0.12 mmol) in 3 mL DCM was slowly added 3 mL TFA followed by stirring for 30 min at room temperature. The solvent was evaporated and the product isolated by flash column chromatography eluting with 0% to 10% methanol/DCM to give 26 mg of the title compound as white solid.

reactant | (2S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-(tetrahydro-2H-pyran-2-yloxy)hexanamide | 0.12 mmol, 43 mg | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)NOC1OCCCC1)CCCC)OC | C20H30FNO4
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-N-hydroxyhexanamide | 26 mg | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)NO)CCCC)OC | C15H22FNO3
